US04778796
Methyl 2-chloro-3-(6-phenylthio-3-pyridyl)propionate (10.5 g), prepared in substantially the same manner as in Reference Example 5 using the corresponding starting materials, is dissolved in 100 ml of dichloromethane. To the solution, 7.1 g of m-chloroperbenzoic acid is added slowly with stirring under cooling in an ice-water bath. The mixture is stirred at room temperature for 1 hour, washed with saturated sodium carbonate solution, dried over magnesium sulfate, and concentrated to give crude methyl 2-chloro-3-(6-phenylsulfinyl-3-pyridyl)propionate. To the sulfinyl compound is added 170 ml of 4N sodium hydroxide solution, and the mixture is refluxed with stirring for 4 hours. After cooling, the resulting precipitate is collected to give 4.1 g of the title compound.

reactant | Methyl 2-chloro-3-(6-phenylthio-3-pyridyl)propionate | 10.5 g | ClC(C(=O)OC)CC=1C=NC(=CC1)SC1=CC=CC=C1 | C15H14ClNO2S
reactant | m-chloroperbenzoic acid | 7.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | methyl 2-chloro-3-(6-phenylsulfinyl-3-pyridyl)propionate | ClC(C(=O)OC)CC=1C=NC(=CC1)S(=O)C1=CC=CC=C1 | C15H14ClNO3S
